* File: NA3I1X1.pex.netlist.pex
* Created: Mon Jun  5 13:10:00 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA3I1X1%D_VDD 1 4 8 16 25 26
c20 26 0 0.234427f
c21 25 0 0.29012f
c22 22 0 0.0701213f
c23 16 0 0.556468f
c24 8 0 0.283488f
c25 4 0 0.456485f
c26 1 0 0.0701213f
r27 21 26 0.264444
r28 21 22 0.0120155
r29 18 25 0.264444
r30 12 22 0.0329425
r31 8 22 0.0329425
r32 1 18 0.0120155
r33 1 4 0.0329425
r34 1 9 0.0329425
r35 1 16 0.136
r36 1 12 0.1785
r37 1 8 0.153
r38 1 9 0.0935
r39 1 4 0.238
.ends

.subckt PM_NA3I1X1%A 2 5 9 17 20 21 23 24 27 33
c50 33 0 0.400865f
c51 27 0 0.125902f
c52 24 0 0.362511f
c53 23 0 0.0281217f
c54 21 0 0.0962352f
c55 17 0 0.22348f
c56 9 0 0.678149f
c57 5 0 0.350099f
c58 2 0 0.145959f
r59 27 33 0.0562216
r60 24 30 12.3675
r61 24 28 5.30035
r62 23 24 7
r63 20 23 0.0519666
r64 19 20 0.085
r65 18 21 0.015029
r66 17 19 0.0474919
r67 17 18 0.708333
r68 13 21 0.0297796
r69 11 21 0.0297796
r70 11 33 0.729583
r71 7 30 11.8695
r72 7 9 189.583
r73 3 28 11.8695
r74 3 5 93.75
r75 2 13 0.0944444
.ends

.subckt PM_NA3I1X1%D_GND 1 3 9 20
c11 20 0 0.907018f
c12 10 0 0.0701213f
c13 9 0 0.502928f
c14 3 0 0.239157f
r15 9 10 0.0329425
r16 8 10 0.0329425
r17 4 10 0.0120155
r18 3 4 0.207778
r19 1 20 0.136
r20 1 8 0.1955
r21 1 9 0.136
.ends

.subckt PM_NA3I1X1%OUT 2 5 6 8 10 17 21 22 25 29
c31 29 0 0.0532173f
c32 25 0 0.0326111f
c33 22 0 0.147639f
c34 21 0 0.0963243f
c35 18 0 0.0372839f
c36 17 0 0.091905f
c37 10 0 0.161563f
c38 8 0 0.187923f
c39 6 0 0.0300141f
c40 5 0 0.0899783f
c41 2 0 0.199572f
r42 22 29 0.0755777
r43 21 25 0.0755777
r44 11 18 0.0359928
r45 11 29 0.10625
r46 10 18 0.0359928
r47 9 17 0.0566888
r48 9 10 0.311667
r49 8 17 0.0472443
r50 7 8 0.347083
r51 5 18 0.00935391
r52 5 6 0.410833
r53 3 6 0.0474919
r54 3 25 0.10625
r55 2 7 0.0688095
.ends

.subckt PM_NA3I1X1%NA 5 9 13 16 19 22
c25 22 0 0.100978f
c26 19 0 0.154755f
c27 16 0 0.0222069f
c28 13 0 0.124109f
c29 9 0 0.464173f
c30 5 0 0.385358f
r31 19 23 15.22
r32 19 22 15.22
r33 16 19 7
r34 11 13 16.6667
r35 7 13 1.46822
r36 7 9 122.917
r37 5 23 89.5833
r38 1 11 1.46822
r39 1 22 33.3333
.ends

.subckt PM_NA3I1X1%C 3 7 9 12 15 18 21
c31 21 0 0.316836f
c32 18 0 0.16357f
c33 15 0 0.0209948f
c34 12 0 0.101932f
c35 7 0 0.277412f
c36 3 0 0.444274f
r37 18 22 15.219
r38 18 21 15.219
r39 15 18 7
r40 10 12 14.5833
r41 7 12 1.46822
r42 7 9 68.75
r43 5 10 1.46822
r44 5 21 108.333
r45 3 22 106.25
.ends

.subckt PM_NA3I1X1%B 3 9 11 12 15 18
c34 18 0 0.0380527f
c35 15 0 0.145971f
c36 12 0 0.22042f
c37 11 0 0.161371f
c38 9 0 0.334121f
c39 3 0 0.406268f
r40 15 22 15.22
r41 15 21 15.22
r42 14 18 0.0330556
r43 14 15 7
r44 11 12 36.1111
r45 11 22 52.0833
r46 9 12 70.8333
r47 3 21 131.25
.ends

