* File: NA3I2X1.pex.netlist.pex
* Created: Mon Jun  5 13:10:50 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA3I2X1%D_VDD 1 4 10 14 32 33 34 44
c23 44 0 0.107984f
c24 34 0 0.200562f
c25 33 0 0.17994f
c26 28 0 0.0701213f
c27 22 0 0.0467475f
c28 14 0 0.267986f
c29 10 0 0.326679f
c30 9 0 0.110724f
c31 4 0 0.190683f
c32 1 0 0.425427f
r33 32 44 0.0188889
r34 27 34 0.217222
r35 27 28 0.0120155
r36 23 33 0.217222
r37 18 28 0.0329425
r38 14 28 0.0329425
r39 11 22 0.0231002
r40 9 22 0.0225187
r41 8 44 0.0216719
r42 8 9 0.155833
r43 4 22 0.0231002
r44 1 23 0.0120155
r45 1 10 0.0329425
r46 1 15 0.0329425
r47 1 18 0.03825
r48 1 14 0.15725
r49 1 15 0.08925
r50 1 10 0.24225
r51 1 11 0.03825
r52 1 4 0.04675
.ends

.subckt PM_NA3I2X1%D_GND 1 4 5 7 16 22
c23 22 0 0.555915f
c24 17 0 0.0467475f
c25 16 0 0.304067f
c26 7 0 0.109868f
c27 5 0 0.223859f
c28 4 0 0.1048f
c29 1 0 0.495777f
r30 16 17 0.0231002
r31 15 17 0.0231002
r32 6 17 0.0225187
r33 6 7 0.155833
r34 5 8 0.207778
r35 4 7 0.0519666
r36 1 8 0.0120155
r37 1 22 0.0329425
r38 1 26 0.0329425
r39 1 26 0.08925
r40 1 22 0.24225
r41 1 15 0.238
r42 1 16 0.119
.ends

.subckt PM_NA3I2X1%OI1 2 5 7 9 11 13 18 19 20 23 30
c52 30 0 0.103996f
c53 20 0 0.0517501f
c54 19 0 0.20573f
c55 18 0 0.0178726f
c56 13 0 0.174237f
c57 11 0 0.367867f
c58 7 0 0.252703f
c59 5 0 0.940307f
r60 23 30 0.0188889
r61 19 26 18.8079
r62 19 24 4.34028
r63 18 20 0.0519666
r64 18 19 7
r65 13 20 0.2125
r66 11 30 0.0216719
r67 10 14 0.0340687
r68 10 11 0.687083
r69 7 26 5.88667
r70 7 9 60.4167
r71 3 24 5.88667
r72 3 5 268.75
r73 2 13 0.0533058
r74 2 14 0.0593186
.ends

.subckt PM_NA3I2X1%OUT 2 5 6 7 10 11 14 16 25 26 31 32 35
c55 35 0 0.0241987f
c56 32 0 0.0827734f
c57 31 0 0.11107f
c58 28 0 0.0160737f
c59 26 0 0.0615725f
c60 16 0 0.0143061f
c61 14 0 0.0275626f
c62 11 0 0.0453517f
c63 10 0 0.114755f
c64 7 0 0.034988f
c65 6 0 0.0450278f
c66 5 0 0.0299364f
c67 2 0 0.106922f
r68 32 37 0.0333929
r69 31 35 0.0755777
r70 25 26 0.0141667
r71 22 25 0.0755556
r72 16 37 0.0399053
r73 15 16 0.085
r74 14 26 0.0216719
r75 13 14 0.347083
r76 12 28 0.0359928
r77 11 15 0.0474919
r78 11 12 0.120417
r79 10 28 0.00935391
r80 9 22 0.0216719
r81 9 10 0.40375
r82 8 20 0.0216719
r83 7 13 0.0474919
r84 7 8 0.17
r85 5 28 0.0359928
r86 5 6 0.14875
r87 3 6 0.0474919
r88 3 35 0.085
r89 2 20 0.0377778
.ends

.subckt PM_NA3I2X1%OI2 2 4 7 11 14 15 18 20 21 22 25 29 33
c56 33 0 0.12375f
c57 31 0 0.0355633f
c58 29 0 0.107656f
c59 25 0 0.195351f
c60 22 0 0.0721273f
c61 20 0 0.0809384f
c62 18 0 0.434623f
c63 15 0 0.0786295f
c64 14 0 0.0917343f
c65 11 0 0.422447f
c66 7 0 0.479743f
c67 4 0 0.104695f
r68 33 38 0.02125
r69 25 34 12.5
r70 24 25 7
r71 22 24 0.0395547
r72 21 22 0.188978
r73 20 38 0.025958
r74 19 31 0.0359928
r75 19 20 0.162917
r76 18 31 0.0359928
r77 17 29 0.0216719
r78 17 18 0.864167
r79 16 21 0.034
r80 15 31 0.00935391
r81 15 16 0.2975
r82 13 14 25
r83 11 13 139.583
r84 5 34 6.3741
r85 5 7 127.083
r86 4 34 6.3741
r87 4 14 33.3333
r88 2 29 0.0236111
.ends

.subckt PM_NA3I2X1%A 1 3 4 6 8 10 13 14 16 19
c31 19 0 0.122382f
c32 16 0 0.0308388f
c33 14 0 0.144957f
c34 13 0 0.165387f
c35 10 0 0.537608f
c36 8 0 0.110163f
c37 4 0 0.262948f
c38 1 0 0.34366f
r39 19 22 15.6208
r40 16 19 7
r41 13 14 18.7458
r42 11 13 62.5
r43 10 22 177.083
r44 8 19 3.125
r45 8 14 13.5417
r46 4 11 13.9682
r47 4 6 25
r48 1 10 13.9682
r49 1 3 41.6667
.ends

.subckt PM_NA3I2X1%C 3 5 8 10 11 14 17
c39 17 0 0.0796791f
c40 14 0 0.197585f
c41 11 0 0.117607f
c42 10 0 0.257592f
c43 8 0 0.704167f
c44 5 0 0.147819f
r45 19 21 9.72222
r46 14 21 4.16667
r47 13 17 0.085
r48 13 14 7
r49 10 11 17.6176
r50 6 21 6.3741
r51 6 8 197.917
r52 5 19 6.3741
r53 5 11 47.9167
r54 3 10 58.3333
.ends

.subckt PM_NA3I2X1%B 3 6 9 13 16 19 24
c29 24 0 0.20669f
c30 19 0 0.0347457f
c31 13 0 0.160882f
c32 9 0 0.482009f
c33 6 0 0.418521f
c34 3 0 0.21362f
r35 20 24 18.0556
r36 19 20 7
r37 16 19 0.0283333
r38 11 13 25
r39 7 24 6.3741
r40 7 9 127.083
r41 6 24 6.3741
r42 5 13 1.46822
r43 5 6 145.833
r44 1 11 1.46822
r45 1 3 37.5
.ends

