* File: NA4I1X1.pex.netlist.pex
* Created: Fri Jun 30 09:15:13 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA4I1X1_D_VDD 1 4 8 9 10 14 24 34 40 41 42 43 55 59
c50 59 0 0.0301548f
c51 55 0 0.0698101f
c52 43 0 0.0955736f
c53 41 0 0.254902f
c54 35 0 0.0458872f
c55 34 0 0.0376312f
c56 32 0 0.0701213f
c57 24 0 0.0435991f
c58 14 0 0.553605f
c59 10 0 0.25984f
c60 9 0 0.0924701f
c61 8 0 0.069176f
c62 4 0 0.403542f
c63 1 0 0.527354f
r64 43 60 0.0522107
r65 43 59 0.0356444
r66 43 59 0.051
r67 42 55 0.0188889
r68 34 43 0.0559945
r69 31 41 0.273889
r70 31 32 0.0120155
r71 25 35 0.0231002
r72 24 35 0.0225187
r73 24 60 0.19125
r74 21 55 0.0216719
r75 21 34 0.198333
r76 15 32 0.0329425
r77 14 35 0.0231002
r78 10 32 0.0329425
r79 8 40 0.0425987
r80 8 9 0.122778
r81 1 9 0.0120155
r82 1 4 0.0329425
r83 1 11 0.0329425
r84 1 25 0.1785
r85 1 14 0.0425
r86 1 15 0.204
r87 1 10 0.1275
r88 1 11 0.11475
r89 1 4 0.21675
.ends

.subckt PM_NA4I1X1_D_GND 1 6 7 8 9 10 27 30 33 42
c43 34 0 0.0701213f
c44 33 0 0.37963f
c45 31 0 0.0701213f
c46 30 0 0.379537f
c47 28 0 0.0701213f
c48 27 0 0.404405f
c49 10 0 0.188342f
c50 9 0 0.165058f
c51 8 0 0.1465f
c52 7 0 0.174621f
c53 6 0 0.219488f
c54 1 0 0.30454f
r55 33 34 0.0329425
r56 32 34 0.0329425
r57 30 31 0.0329425
r58 29 42 0.02125
r59 29 31 0.0329425
r60 27 28 0.0329425
r61 26 28 0.0329425
r62 22 34 0.0120155
r63 18 31 0.0120155
r64 14 28 0.0120155
r65 9 22 0.151111
r66 8 18 0.151111
r67 7 14 0.174722
r68 6 10 0.151111
r69 1 10 0.0246004
r70 1 36 0.0230629
r71 1 32 0.0085
r72 1 33 0.187
r73 1 42 0.14875
r74 1 30 0.1615
r75 1 26 0.1785
r76 1 27 0.153
r77 1 36 0.2125
.ends

.subckt PM_NA4I1X1_NA 2 5 9 12 23 24 26 28 31 32 33 36 39 47
c66 47 0 0.0747395f
c67 39 0 0.191858f
c68 36 0 0.0998212f
c69 33 0 0.111728f
c70 32 0 0.180712f
c71 31 0 0.0281587f
c72 28 0 0.0578673f
c73 26 0 0.0397113f
c74 24 0 0.032122f
c75 23 0 0.117415f
c76 12 0 0.232639f
c77 9 0 0.352327f
c78 5 0 0.293215f
r79 36 47 0.0566888
r80 32 41 5.55556
r81 31 33 0.0519666
r82 31 32 7
r83 27 39 9.72222
r84 26 28 0.0519666
r85 26 27 7
r86 23 28 0.198333
r87 22 23 0.0389945
r88 18 24 0.00935391
r89 18 33 0.347083
r90 13 24 0.0359928
r91 13 47 0.19125
r92 12 24 0.0359928
r93 11 22 0.025958
r94 11 12 0.68
r95 7 41 6.3741
r96 7 9 77.0833
r97 3 39 6.3741
r98 3 5 75
r99 2 22 0.04675
.ends

.subckt PM_NA4I1X1_OUT1 2 5 8 9 11 14 16 19 20 23 24 25 27 28 34 41 44
c65 44 0 0.191233f
c66 41 0 0.0849865f
c67 34 0 0.0111413f
c68 28 0 0.0869697f
c69 27 0 0.155088f
c70 25 0 0.0281871f
c71 24 0 0.0519099f
c72 23 0 0.0522251f
c73 20 0 0.103294f
c74 19 0 0.021128f
c75 16 0 0.0291499f
c76 14 0 0.143451f
c77 9 0 0.530834f
c78 8 0 0.149167f
c79 5 0 0.305586f
r80 41 48 0.0588915
r81 38 44 12.5
r82 37 39 0.0519666
r83 37 38 7
r84 34 37 0.0141667
r85 27 39 0.538333
r86 24 27 0.0474919
r87 24 25 0.0920833
r88 23 48 0.0201085
r89 22 25 0.0474919
r90 22 23 0.389583
r91 21 33 0.0062433
r92 20 34 0.0216719
r93 20 21 0.240833
r94 19 33 0.0687702
r95 18 19 0.113333
r96 17 28 0.0216719
r97 16 18 0.0474919
r98 16 17 0.141667
r99 12 14 20.8333
r100 9 14 1.46822
r101 9 11 141.667
r102 8 12 1.46822
r103 7 44 6.3741
r104 7 8 52.0833
r105 3 44 6.3741
r106 3 5 62.5
r107 2 28 0.0188889
.ends

.subckt PM_NA4I1X1_N$108 2 3 6 7 9 10 11 14 17 18 20 30 32 35 36 41 42 47
c94 47 0 0.300022f
c95 42 0 0.232065f
c96 41 0 0.0341636f
c97 36 0 0.037952f
c98 35 0 0.211836f
c99 32 0 0.101846f
c100 30 0 0.0832593f
c101 20 0 0.0329925f
c102 18 0 0.0221725f
c103 17 0 0.102456f
c104 14 0 0.196546f
c105 11 0 0.0756335f
c106 10 0 0.256103f
c107 7 0 0.241638f
c108 6 0 0.115026f
c109 3 0 0.467687f
c110 2 0 0.0695601f
r111 42 53 20.5177
r112 41 44 0.0188889
r113 41 42 7
r114 36 38 0.0920833
r115 35 50 12.5
r116 34 35 7
r117 32 47 0.146389
r118 32 34 0.14011
r119 29 47 0.193611
r120 28 30 0.0522107
r121 28 29 0.0133396
r122 26 28 0.135227
r123 21 36 0.00499195
r124 20 44 0.0216719
r125 20 21 0.219583
r126 18 38 0.00499195
r127 18 30 0.134583
r128 17 26 0.029859
r129 17 25 0.396667
r130 12 14 37.5
r131 10 12 13.9682
r132 10 11 58.3333
r133 7 9 41.6667
r134 6 53 4.84696
r135 5 11 13.9682
r136 5 6 37.5
r137 4 50 6.3741
r138 3 7 13.9682
r139 3 4 129.167
r140 2 25 0.0519666
.ends

.subckt PM_NA4I1X1_OUT2 2 3 5 9 11 14 16 17 18 19 20 21 24 25 37 38
c96 38 0 0.0780769f
c97 25 0 0.0296727f
c98 24 0 0.118801f
c99 21 0 0.0138179f
c100 20 0 0.0865746f
c101 19 0 0.0823636f
c102 18 0 0.00814263f
c103 17 0 0.0188158f
c104 16 0 0.0736074f
c105 14 0 0.00699533f
c106 11 0 0.0609108f
c107 9 0 0.215338f
c108 5 0 0.731786f
c109 3 0 0.289084f
c110 2 0 0.114395f
r111 28 29 7
r112 25 28 0.0283333
r113 23 24 0.34
r114 21 23 0.0474919
r115 21 22 0.0920833
r116 20 37 0.057244
r117 19 24 0.0474919
r118 19 20 0.162917
r119 17 31 0.0268062
r120 17 18 0.141667
r121 16 38 0.0566888
r122 15 37 0.142981
r123 15 16 0.425
r124 13 18 0.0474919
r125 13 14 0.10625
r126 12 25 0.0216719
r127 11 14 0.0474919
r128 11 12 0.2125
r129 7 29 26.0827
r130 7 9 37.5
r131 3 29 15.5962
r132 3 5 222.917
r133 2 22 0.0915769
r134 2 31 0.0166503
.ends

.subckt PM_NA4I1X1_OUT 2 8 10 12 20 21 24 28
c34 28 0 1.00792f
c35 24 0 0.114422f
c36 21 0 0.0503805f
c37 20 0 0.168803f
c38 19 0 0.0516096f
c39 12 0 0.2876f
c40 10 0 0.0557576f
c41 8 0 0.124976f
c42 2 0 0.0943075f
r43 24 32 0.059739
r44 20 28 15.2843
r45 19 21 0.0519666
r46 19 20 7
r47 12 26 33.1565
r48 10 13 0.100262
r49 10 12 7
r50 8 13 0.01496
r51 8 17 0.226667
r52 6 32 0.0257945
r53 6 21 0.1275
r54 3 26 4.25758
r55 3 28 289.583
r56 2 17 0.0519666
.ends

.subckt PM_NA4I1X1_A 1 3 5 7 8 10 12 15 18 21
c44 21 0 0.217772f
c45 18 0 0.0479204f
c46 15 0 0.157172f
c47 12 0 0.0781878f
c48 8 0 0.230729f
c49 7 0 0.237034f
c50 5 0 0.535143f
c51 1 0 0.262965f
r52 18 21 7
r53 13 15 25
r54 11 21 22.2222
r55 11 12 0.139
r56 8 15 1.46822
r57 8 10 41.6667
r58 7 13 1.46822
r59 6 12 14.6202
r60 6 7 81.25
r61 5 12 14.6202
r62 4 5 170.833
r63 1 4 13.9682
r64 1 3 25
.ends

.subckt PM_NA4I1X1_B 3 7 13 16
c42 16 0 0.378197f
c43 13 0 0.0455009f
c44 7 0 0.785708f
c45 3 0 0.527586f
r46 11 16 17.0999
r47 11 13 7
r48 5 16 41.0397
r49 5 7 225
r50 1 16 3.88502
r51 1 3 145.833
.ends

.subckt PM_NA4I1X1_C 2 5 7 8 10 11 17 19
c41 19 0 0.198132f
c42 17 0 0.0361702f
c43 11 0 0.0985686f
c44 8 0 0.0670342f
c45 7 0 0.227119f
c46 5 0 0.341639f
c47 2 0 0.248645f
r48 15 19 9.72222
r49 15 17 7
r50 11 12 18.018
r51 8 10 41.6667
r52 7 19 6.3741
r53 7 10 56.25
r54 3 12 0.482304
r55 3 5 91.6667
r56 2 8 13.9682
r57 1 11 0.482304
r58 1 2 91.6667
.ends

.subckt PM_NA4I1X1_D 2 5 7 8 9 11 14 16 18 21 23 26 30
c59 30 0 0.360635f
c60 26 0 0.0705975f
c61 23 0 0.0471249f
c62 21 0 0.156216f
c63 18 0 0.135949f
c64 16 0 0.0561713f
c65 14 0 0.0991297f
c66 9 0 0.221617f
c67 8 0 0.0852628f
c68 7 0 0.183869f
c69 5 0 0.228169f
c70 2 0 0.599533f
r71 26 28 0.0519666
r72 21 30 15.2843
r73 20 23 0.0236111
r74 20 21 7
r75 18 23 0.0216719
r76 18 28 0.354167
r77 14 15 18.5185
r78 13 16 10.5861
r79 13 30 116.667
r80 9 16 2.75115
r81 9 11 41.6667
r82 7 16 10.5861
r83 7 8 58.3333
r84 3 15 0.129719
r85 3 5 54.1667
r86 2 8 13.9682
r87 1 14 0.129719
r88 1 2 208.333
.ends

