* File: NA4I2X1.pex.netlist.pex
* Created: Fri Jun 30 08:55:35 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA4I2X1_D_VDD 1 4 8 9 10 14 24 34 40 41 42 43 57 64 68
c69 68 0 0.0301548f
c70 64 0 0.0698101f
c71 57 0 0.134585f
c72 43 0 0.0955736f
c73 41 0 0.205893f
c74 40 0 0.0722803f
c75 35 0 0.0458872f
c76 34 0 0.0376312f
c77 32 0 0.0701213f
c78 30 0 0.0688308f
c79 24 0 0.0435991f
c80 14 0 0.553605f
c81 10 0 0.272388f
c82 9 0 0.0700922f
c83 8 0 0.133878f
c84 4 0 0.487258f
c85 1 0 0.457232f
r86 56 57 0.0085
r87 44 57 0.00941327
r88 43 69 0.0522107
r89 43 68 0.0356444
r90 43 68 0.051
r91 42 64 0.0188889
r92 40 56 0.08075
r93 40 44 0.0377778
r94 34 43 0.0559945
r95 31 41 0.273889
r96 31 32 0.0120155
r97 29 40 0.179444
r98 29 30 0.0120155
r99 25 35 0.0231002
r100 24 35 0.0225187
r101 24 69 0.19125
r102 21 64 0.0216719
r103 21 34 0.198333
r104 15 32 0.0329425
r105 14 35 0.0231002
r106 11 30 0.0329425
r107 10 32 0.0329425
r108 9 56 0.000882159
r109 8 40 0.0815371
r110 8 9 0.0734091
r111 4 30 0.0329425
r112 1 25 0.1785
r113 1 14 0.0425
r114 1 15 0.204
r115 1 10 0.1275
r116 1 11 0.1275
r117 1 4 0.204
.ends

.subckt PM_NA4I2X1_NA 2 3 5 7 10 12 13 15 16 19 25 27 29 32 34 41
c66 41 0 0.0653609f
c67 32 0 0.287052f
c68 29 0 0.0470125f
c69 27 0 0.0508215f
c70 25 0 0.219236f
c71 19 0 0.0431412f
c72 16 0 0.0764696f
c73 15 0 0.0572565f
c74 14 0 0.065835f
c75 13 0 0.387765f
c76 12 0 0.123193f
c77 10 0 0.358155f
c78 5 0 0.237604f
c79 3 0 0.495386f
r80 34 45 0.0380283
r81 34 41 0.0141667
r82 32 40 44.4596
r83 31 32 7
r84 29 31 0.0389908
r85 25 37 12.5
r86 24 27 0.0613889
r87 24 25 7
r88 19 27 0.000441044
r89 19 45 0.068
r90 17 20 0.0211726
r91 16 29 0.0203888
r92 16 17 0.44625
r93 14 41 0.0334507
r94 14 15 0.113333
r95 13 15 0.0474919
r96 12 13 0.665833
r97 8 40 3.88502
r98 8 10 97.9167
r99 5 7 41.6667
r100 4 37 6.3741
r101 3 5 13.9682
r102 3 4 147.917
r103 2 12 0.0520493
r104 2 20 0.0621485
.ends

.subckt PM_NA4I2X1_D_GND 1 6 7 8 9 26 29 32 35 46
c47 36 0 0.0701213f
c48 35 0 0.37963f
c49 33 0 0.0701213f
c50 32 0 0.307173f
c51 30 0 0.0701213f
c52 29 0 0.583499f
c53 26 0 0.214781f
c54 10 0 0.220849f
c55 9 0 0.165058f
c56 8 0 0.1465f
c57 7 0 0.149367f
c58 6 0 0.103225f
c59 1 0 0.30454f
r60 35 36 0.0329425
r61 34 36 0.0329425
r62 32 33 0.0329425
r63 31 46 0.02125
r64 31 33 0.0329425
r65 29 30 0.0329425
r66 28 30 0.0329425
r67 20 36 0.0120155
r68 16 33 0.0120155
r69 12 30 0.0120155
r70 10 26 0.217222
r71 9 20 0.151111
r72 8 16 0.151111
r73 7 12 0.151111
r74 6 26 0.0373782
r75 1 10 0.0244757
r76 1 38 0.0231875
r77 1 34 0.0085
r78 1 35 0.187
r79 1 46 0.14875
r80 1 32 0.1615
r81 1 28 0.119
r82 1 29 0.0765
r83 1 38 0.187
.ends

.subckt PM_NA4I2X1_NB 2 5 7 9 11 13 14 16 25 29
c67 29 0 0.081752f
c68 25 0 0.0304009f
c69 16 0 0.0431123f
c70 14 0 0.0435528f
c71 13 0 0.0209321f
c72 11 0 0.0466792f
c73 9 0 0.749118f
c74 7 0 0.314333f
c75 5 0 0.443888f
c76 2 0 0.137666f
r77 29 31 0.0283333
r78 25 26 7
r79 23 25 0.0708333
r80 21 23 0.0283333
r81 16 31 0.0216719
r82 15 23 0.0216719
r83 15 16 0.155833
r84 14 21 0.0216719
r85 13 20 0.10328
r86 13 14 0.23375
r87 11 20 0.0124162
r88 11 12 0.141667
r89 7 26 15.7859
r90 7 9 208.333
r91 3 26 27.7859
r92 3 5 129.167
r93 2 12 0.140216
.ends

.subckt PM_NA4I2X1_OUT1 2 5 8 9 11 14 16 19 20 23 29 31 33 40 43
c66 43 0 0.189928f
c67 40 0 0.0787951f
c68 33 0 0.0183556f
c69 31 0 0.0667655f
c70 29 0 0.0238107f
c71 23 0 0.180093f
c72 20 0 0.0428216f
c73 19 0 0.0250856f
c74 16 0 0.0187403f
c75 14 0 0.141485f
c76 9 0 0.530855f
c77 8 0 0.146761f
c78 5 0 0.292586f
c79 2 0 0.0672822f
r80 40 47 0.0619395
r81 37 43 12.5
r82 36 38 0.0519666
r83 36 37 7
r84 33 36 0.0188889
r85 31 32 0.1632
r86 29 30 0.184496
r87 23 32 0.00671768
r88 23 38 0.694167
r89 21 30 0.00803781
r90 20 33 0.0216719
r91 20 21 0.10625
r92 19 47 0.0213094
r93 18 31 0.00671768
r94 18 19 0.177083
r95 17 27 0.0216719
r96 16 29 0.00803781
r97 16 17 0.141667
r98 12 14 20.8333
r99 9 14 1.46822
r100 9 11 141.667
r101 8 12 1.46822
r102 7 43 6.3741
r103 7 8 52.0833
r104 3 43 6.3741
r105 3 5 62.5
r106 2 27 0.0188889
.ends

.subckt PM_NA4I2X1_N$108 2 3 6 7 9 10 11 14 17 18 20 30 32 35 36 41 42 47
c95 47 0 0.300638f
c96 42 0 0.232065f
c97 41 0 0.0341636f
c98 36 0 0.037952f
c99 35 0 0.211836f
c100 32 0 0.101846f
c101 30 0 0.0832593f
c102 20 0 0.0329925f
c103 18 0 0.0221725f
c104 17 0 0.101474f
c105 14 0 0.196546f
c106 11 0 0.0756335f
c107 10 0 0.256103f
c108 7 0 0.241638f
c109 6 0 0.115026f
c110 3 0 0.467687f
c111 2 0 0.0674555f
r112 42 53 20.5177
r113 41 44 0.0188889
r114 41 42 7
r115 36 38 0.0920833
r116 35 50 12.5
r117 34 35 7
r118 32 47 0.146389
r119 32 34 0.14011
r120 29 47 0.193611
r121 28 30 0.0522107
r122 28 29 0.0133396
r123 26 28 0.135227
r124 21 36 0.00499195
r125 20 44 0.0216719
r126 20 21 0.219583
r127 18 38 0.00499195
r128 18 30 0.134583
r129 17 26 0.029859
r130 17 25 0.396667
r131 12 14 37.5
r132 10 12 13.9682
r133 10 11 58.3333
r134 7 9 41.6667
r135 6 53 4.84696
r136 5 11 13.9682
r137 5 6 37.5
r138 4 50 6.3741
r139 3 7 13.9682
r140 3 4 129.167
r141 2 25 0.0519666
.ends

.subckt PM_NA4I2X1_OUT2 2 3 5 9 11 14 16 17 18 19 20 21 24 25 37 38
c96 38 0 0.0780769f
c97 25 0 0.0296727f
c98 24 0 0.118801f
c99 21 0 0.0138179f
c100 20 0 0.0865746f
c101 19 0 0.0823636f
c102 18 0 0.00814263f
c103 17 0 0.0188158f
c104 16 0 0.0736074f
c105 14 0 0.00699533f
c106 11 0 0.0609108f
c107 9 0 0.215338f
c108 5 0 0.731786f
c109 3 0 0.289084f
c110 2 0 0.114395f
r111 28 29 7
r112 25 28 0.0283333
r113 23 24 0.34
r114 21 23 0.0474919
r115 21 22 0.0920833
r116 20 37 0.057244
r117 19 24 0.0474919
r118 19 20 0.162917
r119 17 31 0.0268062
r120 17 18 0.141667
r121 16 38 0.0566888
r122 15 37 0.142981
r123 15 16 0.425
r124 13 18 0.0474919
r125 13 14 0.10625
r126 12 25 0.0216719
r127 11 14 0.0474919
r128 11 12 0.2125
r129 7 29 26.0827
r130 7 9 37.5
r131 3 29 15.5962
r132 3 5 222.917
r133 2 22 0.0915769
r134 2 31 0.0166503
.ends

.subckt PM_NA4I2X1_OUT 2 8 10 12 20 21 24 28
c34 28 0 1.00792f
c35 24 0 0.114422f
c36 21 0 0.0503805f
c37 20 0 0.168803f
c38 19 0 0.0516096f
c39 12 0 0.2876f
c40 10 0 0.0557576f
c41 8 0 0.124976f
c42 2 0 0.0943075f
r43 24 32 0.059739
r44 20 28 15.2843
r45 19 21 0.0519666
r46 19 20 7
r47 12 26 33.1565
r48 10 13 0.100262
r49 10 12 7
r50 8 13 0.01496
r51 8 17 0.226667
r52 6 32 0.0257945
r53 6 21 0.1275
r54 3 26 4.25758
r55 3 28 289.583
r56 2 17 0.0519666
.ends

.subckt PM_NA4I2X1_A 1 3 8 9 11 14 18 21 24
c40 24 0 0.356503f
c41 21 0 0.0561288f
c42 18 0 0.165577f
c43 14 0 0.200316f
c44 9 0 0.228434f
c45 8 0 0.112372f
c46 1 0 0.277088f
r47 18 25 15.219
r48 18 24 15.219
r49 17 21 0.0519444
r50 17 18 7
r51 12 14 35.4167
r52 9 14 1.46822
r53 9 11 41.6667
r54 8 12 1.46822
r55 8 25 39.5833
r56 5 24 122.917
r57 1 5 13.9682
r58 1 3 37.5
.ends

.subckt PM_NA4I2X1_B 1 3 5 6 10 14 17 24
c46 24 0 0.140424f
c47 17 0 0.0575213f
c48 14 0 0.214503f
c49 10 0 0.369891f
c50 6 0 0.266761f
c51 5 0 0.307526f
c52 1 0 0.154995f
r53 20 24 15.2843
r54 20 21 4.16667
r55 19 20 7
r56 17 19 0.0505952
r57 12 14 50
r58 8 10 72.9167
r59 6 8 13.9682
r60 6 24 66.6667
r61 5 21 6.3741
r62 4 14 1.46822
r63 4 5 106.25
r64 1 12 1.46822
r65 1 3 25
.ends

.subckt PM_NA4I2X1_C 2 5 7 8 10 11 17 19
c41 19 0 0.198132f
c42 17 0 0.0361702f
c43 11 0 0.0985686f
c44 8 0 0.0670342f
c45 7 0 0.227119f
c46 5 0 0.341639f
c47 2 0 0.248645f
r48 15 19 9.72222
r49 15 17 7
r50 11 12 18.018
r51 8 10 41.6667
r52 7 19 6.3741
r53 7 10 56.25
r54 3 12 0.482304
r55 3 5 91.6667
r56 2 8 13.9682
r57 1 11 0.482304
r58 1 2 91.6667
.ends

.subckt PM_NA4I2X1_D 2 5 7 8 9 11 14 16 18 21 23 26 30
c59 30 0 0.360635f
c60 26 0 0.0705975f
c61 23 0 0.0471249f
c62 21 0 0.156216f
c63 18 0 0.135949f
c64 16 0 0.0561713f
c65 14 0 0.0991297f
c66 9 0 0.221617f
c67 8 0 0.0852628f
c68 7 0 0.183869f
c69 5 0 0.228169f
c70 2 0 0.599533f
r71 26 28 0.0519666
r72 21 30 15.2843
r73 20 23 0.0236111
r74 20 21 7
r75 18 23 0.0216719
r76 18 28 0.354167
r77 14 15 18.5185
r78 13 16 10.5861
r79 13 30 116.667
r80 9 16 2.75115
r81 9 11 41.6667
r82 7 16 10.5861
r83 7 8 58.3333
r84 3 15 0.129719
r85 3 5 54.1667
r86 2 8 13.9682
r87 1 14 0.129719
r88 1 2 208.333
.ends

